US07652015B2
Place trimethylsilyl-diazomethane (2 M in THF) (25 mL, 50 mmol) in THF (50 mL). Cool the reaction to −78° C. and add lithium diisopropylamide (2 M in THF) (25 mL, 50 mmol) over 30 min. Add methyl propiolate (4.45 mL, 50 mmol) and stir at −78° C. for 2 hours. Warm to room temperature and stir for 18 hours. Add ethyl acetate, water, and 1 N HCl. Separate organic layer and extract aqueous with ethyl acetate (2×25 mL). Combine organic extracts, dry over Mg2SO4, filter, and concentrate under reduced pressure. Subject residue to silica gel chromatography eluting with 0-60% EtOAc:hexane to yield 3.59 g (36%) of 5-trimethylsilanyl-2H-pyrazole-3-carboxylic acid methyl ester.

reactant | trimethylsilyl-diazomethane | 50 mmol, 2 M, 25 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | lithium diisopropylamide | 50 mmol, 2 M, 25 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl propiolate | 50 mmol, 4.45 mL | C(C#C)(=O)OC | C4H4O2
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-trimethylsilanyl-2H-pyrazole-3-carboxylic acid methyl ester | 3.59 g, 36% | COC(=O)C=1NN=C(C1)[Si](C)(C)C | C8H14N2O2Si
